US06417223B1
A solution of 3-bromopropylamine hydrobromide (1.0 g, 4.6 mmol) in a 2:1 dioxane/H2O (45 mL) was cooled to 0° C. and treated with K2CO3 (6.22 g, 45 mmol) and di-tert-butyl dicarbonate (1.5 g, 6.9 mmol). The reaction was stirred for 15 h while warming to room temperature. The dioxane was removed in vacuo and the remaining aqueous mixture was acidified with 5 N HCl and extracted with ethyl acetate (5×25 mL). The combined organic layers were dried with MgSO4 and yielded 3-bromo-N-(tert-butoxycarbonyl)propylamine as a colorless oil (0.93 g, 93%). 1H-NMR (CDCl3/TMS, ppm): 1.41 (s 9H, CH3), 2.02 (quintet, J=6.4 Hz, 2H, CH2), 3.23 (m, 2H, NCH2), 3.41 (t, J=6.6 Hz, CH2Br), 4.8 (broad, 1H, NH); 13C-NMR (CDCl3, ppm): 28.3 (CH3), 30.7, 32.6, 38.9 (CH2), 79.3 (quaternary C), 155.9 (CO); MS (CI, m/z): 239, 241 (M+H+ Calc. for C8H16BrNO2 237.03644).

reactant | 3-bromopropylamine hydrobromide | 4.6 mmol, 1.0 g | Br.BrCCCN
reactant | K2CO3 | 45 mmol, 6.22 g | C(=O)([O-])[O-].[K+].[K+]
reactant | di-tert-butyl dicarbonate | 6.9 mmol, 1.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane H2O | 45 mL | O1CCOCC1.O
product | 3-bromo-N-(tert-butoxycarbonyl)propylamine | 0.93 g, 93% | BrC(CCN)C(=O)OC(C)(C)C | C8H16BrNO2
